.subckt fourbit_adder A3 A2 A1 A0 B3 B2 B1 B0 C4 S3 S2 S1 S0 vdd gnd

Xh1 A0 B0 S0 C1 vdd gnd half_adder
Xf1 A1 B1 C1 S1 C2 vdd gnd full_adder
Xf2 A2 B2 C2 S2 C3 vdd gnd full_adder
Xf3 A3 B3 C3 S3 C4 vdd gnd full_adder

.ends fourbit_adder