.subckt full_adder A B C sum cout vdd gnd

Xhf1 A B node1 node3 vdd gnd half_adder
Xhf2 C node1 sum node2 vdd gnd half_adder
Xor node3 node2 cout vdd gnd or

.ends full_adder