.subckt half_adder A B sum carry vdd gnd

Xnand1 A B node1 vdd gnd nand
Xnand2 A node1 node2 vdd gnd nand
Xnand3 node1 B node2 vdd gnd nand
Xnand4 node3 node2 sum vdd gnd nand
Xnot node1 carry vdd gnd not

.ends half_adder

